US09421213B2
(R)-4-(2-Chloro-6-(methylthiomethyl)pyrimidin-4-yl)-3-methylmorpholine (12.63 g, 46.13 mmol) was dissolved in DCM (100 ml), to this was added mCPBA (7.96 g, 46.13 mmol) in one portion and the reaction mixture was stirred for 10 minutes at 25° C. An additional portion of mCPBA (0.180 g) was added. The reaction mixture was quenched with saturated Na2CO3 solution (50 ml) and extracted with DCM (3×50 ml). The organic layer was dried over MgSO4, filtered and then evaporated. The residue was dissolved in DCM (80 ml) in a 150 ml conical flask which was placed into a beaker containing Et2O (200 ml) and the system covered with laboratory film and then left for 3 days. The obtained crystals were filtered, crushed and sonicated with Et2O. The crystallisation procedure was repeated to afford (R)-4-(2-chloro-6-((R)-methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine as white needles (3.87 g, 29%); 1H NMR (400 MHz, CDCl3) 1.33 (3H, d), 2.62 (3H, s), 3.30 (1H, td), 3.53 (1H, td), 3.68 (1H, dd), 3.76 (2H, dd), 3.95 (1H, d), 4.00 (1H, dd), 4.02 (1H, s), 4.32 (1H, s), 6.42 (1H, s).

reactant | (R)-4-(2-Chloro-6-(methylthiomethyl)pyrimidin-4-yl)-3-methylmorpholine | 46.13 mmol, 12.63 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)CSC | C11H16ClN3OS
reactant | mCPBA | 46.13 mmol, 7.96 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | mCPBA | 0.180 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | (R)-4-(2-chloro-6-((R)-methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine | 3.87 g, 29% | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C[S@](=O)C | C11H16ClN3O2S
